M0 n1_4 n1_2 vdd vdd P w=4.2e-007 l=1.8e-007 
M1 n1_4 n1_2 n2_3 n2_3 N w=2.2e-007 l=1.8e-007 
M2 n1_4 n3_2 vdd vdd P w=4.2e-007 l=1.8e-007 
M3 n2_3 n3_2 gnd gnd N w=2.2e-007 l=1.8e-007 
M4 n3_2 n6_2 vdd vdd P w=4.2e-007 l=1.8e-007 
M5 n3_2 n6_2 n7_3 n7_3 N w=2.2e-007 l=1.8e-007 
M6 n3_2 x1 vdd vdd P w=4.2e-007 l=1.8e-007 
M7 n7_3 x1 gnd gnd N w=2.2e-007 l=1.8e-007 
M8 n1_2 x2 vdd vdd P w=4.2e-007 l=1.8e-007 
M9 n1_2 x2 n12_3 n12_3 N w=2.2e-007 l=1.8e-007 
M10 n1_2 n6_2 vdd vdd P w=4.2e-007 l=1.8e-007 
M11 n12_3 n6_2 gnd gnd N w=2.2e-007 l=1.8e-007 
M12 n6_2 x2 vdd vdd P w=4.2e-007 l=1.8e-007 
M13 n6_2 x2 n17_3 n17_3 N w=2.2e-007 l=1.8e-007 
M14 n6_2 x1 vdd vdd P w=4.2e-007 l=1.8e-007 
M15 n17_3 x1 gnd gnd N w=2.2e-007 l=1.8e-007 